US07645784B2
2-[(2-hydroxyethyl)amino]-3-nitrobenzonitrile was prepared starting from 2-chloro-3-nitrobenzonitrile [prepared as described in WO 97/38983] (0.89 g) according to the procedure described for the synthesis of 2-[(2-bromo-6-nitrophenyl)amino]ethanol. Yield 1.06 g (99 %). 1H NMR (400 MHz, CD3CN) δ ppm: 3.00 (t, J=4.8 Hz, 1H), 3.68 (q, J=4.7 Hz, 2H), 3.81 (m, 2H), 6.70 (dd, J=8.6, 7.6 Hz, 1H), 7.75 (dd, J=7.6, 1.5 Hz, 1H), 8.28 (dd, J=8.6, 2.0 Hz, 1H), 8.41 (bs, 1H).

reactant | 2-chloro-3-nitrobenzonitrile | 0.89 g | ClC1=C(C#N)C=CC=C1[N+](=O)[O-] | C7H3ClN2O2
reactant | 2-[(2-bromo-6-nitrophenyl)amino]ethanol | BrC1=C(C(=CC=C1)[N+](=O)[O-])NCCO | C8H9BrN2O3
product | 2-[(2-hydroxyethyl)amino]-3-nitrobenzonitrile | OCCNC1=C(C#N)C=CC=C1[N+](=O)[O-] | C9H9N3O3
